US08809525B2
6-(1-benzofuran-5-yl)-5-phenyl-1,2,4-triazin-3-amine (225 mg, 47%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.50 g, 1.99 mmol) and benzofuran-5 boronic acid (0.32 g, 1.99 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.50 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | benzofuran-5 boronic acid | 1.99 mmol, 0.32 g | O1C=CC2=C1C=CC(=C2)B(O)O | C8H7BO3
product | 6-(1-benzofuran-5-yl)-5-phenyl-1,2,4-triazin-3-amine | 225 mg, 47% | O1C=CC2=C1C=CC(=C2)C2=C(N=C(N=N2)N)C2=CC=CC=C2 | C17H12N4O
